* Precision front-end demo — OPA333 (3.3 V single-supply)
.param FHB=1.2 AmpHB=500u FNOISE=50 AmpNOISE=200u
* Signal source: heartbeat (1.2 Hz) + small motion noise (50 Hz)
Bsig VIN 0 V=AmpHB*sin(2*pi*FHB,time) + AmpNOISE*sin(2*pi*FNOISE,time)

* Power rails
VCC VCC 0 DC 3.3
Cdec VCC 0 10u

* Mid-rail reference for single-supply bias
Rref1 VCC VREF 100k
Rref2 VREF 0 100k
Cref VREF 0 10u

* Input coupling (AC-couple to mid-rail)
C1 VIN NIN 1u
Rbias NIN VREF 318k  ; fc ~= 0.5 Hz

* Non-inverting precision preamp (gain ≈ 20)
* Replace 'OPA333' subckt with vendor model for realistic noise/offset
XU1 NIN VREF OUT 0 OPA333
Rin NIN VREF 10k
Rfb OUT VREF 190k  ; sets gain ~1 + Rfb/Rin ≈ 20

* Output anti-aliasing ~100 Hz
Rlp OUT VOUT 33k
Clp VOUT VREF 48n   ; fc ~= 100 Hz

Cout VOUT ADC_IN 1u
Radc ADC_IN 0 100k

.ac dec 100 0.1 100k
.tran 0 2

.control
run
* Use vendor OPA333 subckt and run .noise + .tran for realistic validation
.endc
.end